US06362341B1
Synthesis of N-(Toluene-4-sulfonyl)-L-prolyl-L-phenylalanine N-Benzyloxyamide
N-(Toluene-4-sulfonyl)-L-prolyl-L-phenylalanine was coupled to O-benzylhydroxylamine using the procedure described in Method 3 to give the title compound as a white solid, mp=127-130° C.

reactant | N-(Toluene-4-sulfonyl)-L-prolyl-L-phenylalanine | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)CCC1)C | C21H24N2O5S
reactant | O-benzylhydroxylamine | C(C1=CC=CC=C1)ON | C7H9NO
product | N-(Toluene-4-sulfonyl)-L-prolyl-L-phenylalanine N-Benzyloxyamide | C(C1=CC=CC=C1)ONC([C@@H](NC([C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1=CC=CC=C1)=O | C28H31N3O5S
